US07713993B2
(1) Synthesis of 1-methyl-2-oxopropyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylate
IPEA (2.1 mL) was added to a solution of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (1 g) and 3-chloro-2-butanone (0.39 mL) in DMF (10 mL), and the reaction solution was stirred at room temperature for 19 hours. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 1.3 g of the title compound.

reactant | IPEA | 2.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 1 g | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | 3-chloro-2-butanone | 0.39 mL | ClC(C(C)=O)C | C4H7ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-methyl-2-oxopropyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylate | 1.3 g | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)OC(C(C)=O)C | C18H20N2O4
